US06498164B1
To a solution of 1,3-bis(3-methylbutyl)barbituric acid 268 mg (1.00 mmol) in dry dichloromethane 3.0 mL under a nitrogen atmosphere, added was pyridine 0.81 mL (0.79 g, 10 mmol, 10 equivalents) and stirred at 0° C. Added was isovaleryl chloride 121 mg (1.00 mmol, 1.00 equivalent) in dichloromethane 1.5 mL to the solution slowly during a period of 20 minutes, then stirred at room temperature for 4 hours. Added was dichloromethane 40 mL and washed the organic layer with 2 M hydrochloric acid and saturated brine, and dried over sodium sulfate. Purified was the crude product 383 mg, after removal of the solvent under the reduced pressure, by column chromatography (silica gel, eluted with dichloromethane). It obtained 1,3-bis(3-methylbutyl)-5-(3-methyl-1-oxobutyl)barbituric acid 278 mg as white plates (79.0% yield).

reactant | 1,3-bis(3-methylbutyl)barbituric acid | 1.00 mmol, 268 mg | CC(CCN1C(=O)N(C(=O)CC1=O)CCC(C)C)C | C14H24N2O3
reactant | pyridine | 10 mmol, 0.81 mL, 0.79 g, 10 equivalents | N1=CC=CC=C1 | C5H5N
reactant | isovaleryl chloride | 1.00 mmol, 121 mg, 1.00 equivalent | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1,3-bis(3-methylbutyl)-5-(3-methyl-1-oxobutyl)barbituric acid | 278 mg, 79.0% yield | CC(CCN1C(=O)N(C(=O)C(C1=O)C(CC(C)C)=O)CCC(C)C)C | C19H32N2O4
